US07250441B2
Step 2: 1-Allyl-2-[(2,5-dichloro-phenyl)-hydrazono]-cyclopentanecarboxylic acid ethyl ester
To a solution of 2-carbethoxy-2-allylcyclopentanone (110 mg, 0.55 mmol) in 1 mL of methanol was added (2,5-dichloro-phenyl)-hydrazine (89 mg, 0.50 mmol) and sodium acetate (62 mg, 0.75 mmol). The reaction mixture was stirred at room temperature over night. The reaction mixture was concentrated and adding 10 mL of ethyl acetate diluted the residue. The organic solution was washed with 5 mL of water and 5 mL of brine. The organic layer was dried over sodium sulfate and concentrated to give the crude product, which was directly used in next step without purification.

reactant | 2-carbethoxy-2-allylcyclopentanone | 0.55 mmol, 110 mg | C(=O)(OCC)C1(C(CCC1)=O)CC=C | C11H16O3
reactant | (2,5-dichloro-phenyl)-hydrazine | 0.50 mmol, 89 mg | ClC1=C(C=C(C=C1)Cl)NN | C6H6Cl2N2
reactant | sodium acetate | 0.75 mmol, 62 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 1-Allyl-2-[(2,5-dichloro-phenyl)-hydrazono]-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)C1(C(CCC1)=NNC1=C(C=CC(=C1)Cl)Cl)CC=C | C17H20Cl2N2O2
